US09062070B2
Step B: 3-ethenyl-6-fluoro-2-methoxybenzonitrile
3-bromo-6-fluoro-2-methoxybenzonitrile (4.40 g, 19.1 mmol), potassium vinyl trifluoroborate (5.12 g, 38.3 mmol), PdCl2(dppf)-CH2Cl2 Adduct (0.7 g, 1 mmol) and TEA (5.33 mL, 38.3 mmol) were added to 80 mL ethanol in a 200 mL flask. The reaction mixture was degassed and heated to reflux for 4 h. The reaction mixture was cooled and then most of the EtOH was removed. The residue was diluted with ethyl acetate. The mixture was washed with brine twice. The organic layer was separated and dried over Na2SO4, filtered, and evaporated to dryness. The residue was purified through a 330 g RediSep column and eluted with 10% EtOAc/hexane solvent system to yield the title compound.

reactant | 3-bromo-6-fluoro-2-methoxybenzonitrile | 19.1 mmol, 4.40 g | BrC=1C(=C(C#N)C(=CC1)F)OC | C8H5BrFNO
reactant | ethanol | 80 mL | C(C)O | C2H6O
catalyst | PdCl2(dppf) CH2Cl2 | 1 mmol, 0.7 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 3-ethenyl-6-fluoro-2-methoxybenzonitrile | C(=C)C=1C(=C(C#N)C(=CC1)F)OC | C10H8FNO
